US09238631B2
c) Di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-[(5-hydroxypyridin-2-yl)methyl]hexanedioate
A solution of 220 mg of (5S)-6-tert-butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-[(5-hydroxypyridin-2-yl)methyl]-6-oxohexanoic acid (0.42 mmol) and 100 mg 4-N,N-dimethylaminopyridine (0.84 mmol) in 1,4-dioxan (10 mL) was heated under reflux for 2 hours. The mixture was evaporated and the residue was purified by column preparative HPLC (method C) to give two batches (107+49 mg; 78% combined yield) of the target compound.

reactant | (5S)-6-tert-butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-[(5-hydroxypyridin-2-yl)methyl]-6-oxohexanoic acid | 0.42 mmol, 220 mg | C(C)(C)(C)OC([C@H](CCC(C(=O)O)(CC1=NC=C(C=C1)O)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C26H40N2O9
solvent | 1,4-dioxan | 10 mL | O1CCOCC1 | C4H8O2
product | Di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-[(5-hydroxypyridin-2-yl)methyl]hexanedioate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC(C)(C)C)CCC(C(=O)OC(C)(C)C)CC1=NC=C(C=C1)O | C25H40N2O7
